US08530461B2
(S)-2-Acetylamino-4-methyl-thiazole-5-carboxylic acid [1-(4-{3-[4-(2-methoxy-ethoxy)-phenoxy]-azetidin-1-yl}-phenyl)-ethyl]-amide
100 mg (0.39 mmol) 3-[4-(2-Methoxy-ethoxy)-phenoxy]-azetidine (IX.4), 165 mg (0.43 mmol) (S)-2-acetylamino-4-methyl-thiazole-5-carboxylic acid [1-(4-bromo-phenyl)-ethyl]-amide (I.6), 45 mg (0.06 mmol) chloro(2-dicyclohexylphosphino-2′,4′,6′-tri-iso-propyl-1,1′-biphenyl)[2-(2-aminoethyl)phenyl]palladium(II) and 150 mg (1.56 mmol) NaOtBu are combined under an argon atmosphere and 1,4-dioxane (4.0 mL) is added. The mixture is stirred for 12 h at 45° C. Some water and methanol are added and the mixture is filtered and purified by HPLC (Zorbax, acetronitrile/H2O (+0.1% TFA)) to yield the desired product.

reactant | 3-[4-(2-Methoxy-ethoxy)-phenoxy]-azetidine | 0.39 mmol, 100 mg | COCCOC1=CC=C(OC2CNC2)C=C1 | C12H17NO3
reactant | (S)-2-acetylamino-4-methyl-thiazole-5-carboxylic acid [1-(4-bromo-phenyl)-ethyl]-amide | 0.43 mmol, 165 mg | BrC1=CC=C(C=C1)[C@H](C)NC(=O)C1=C(N=C(S1)NC(C)=O)C | C15H16BrN3O2S
reactant | NaOtBu | 1.56 mmol, 150 mg | CC(C)(C)[O-].[Na+]
reactant | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (S)-2-Acetylamino-4-methyl-thiazole-5-carboxylic acid [1-(4-{3-[4-(2-methoxy-ethoxy)-phenoxy]-azetidin-1-yl}-phenyl)-ethyl]-amide | COCCOC1=CC=C(OC2CN(C2)C2=CC=C(C=C2)[C@H](C)NC(=O)C2=C(N=C(S2)NC(C)=O)C)C=C1 | C27H32N4O5S
